US08217032B2
[4-(2-Azepan-1-yl-ethoxy)-phenyl]-[2-(2,5-difluoro-phenyl)-6-methoxy-naphthalen-1-yl]-methanone
Dissolve trifluoromethanesulfonic acid 1-[4-(2-azepan-1-yl-ethoxy)-benzoyl]-6-methoxynaphthalen-2-yl ester (2.00 g, 3.63 mmol) in 5 mL of degassed acetonitrile and add 2,5-difluorophenyl boronic acid (1.15 g, 7.26 mmol), trans[dichlorobis(triphenylphosphine)]palladium II (0.51 g, 0.73 mmol) and sonicate briefly. Next add cesium fluoride (4.96 g, 32.76 mmol) and heat to 75° C. for one hour. Add Celite and filter. Concentrate the solvent under vacuum, dissolve in methanol and purify on an SCX cartridge, eluting with 2N ammonia/methanol to give 1.74 g (93%) of the title compound.

reactant | trifluoromethanesulfonic acid 1-[4-(2-azepan-1-yl-ethoxy)-benzoyl]-6-methoxynaphthalen-2-yl ester | 3.63 mmol, 2.00 g | N1(CCCCCC1)CCOC1=CC=C(C(=O)C2=C(C=CC3=CC(=CC=C23)OC)OS(=O)(=O)C(F)(F)F)C=C1 | C27H28F3NO6S
reactant | 2,5-difluorophenyl boronic acid | 7.26 mmol, 1.15 g | FC1=C(C=C(C=C1)F)B(O)O | C6H5BF2O2
reactant | cesium fluoride | 32.76 mmol, 4.96 g | [F-].[Cs+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
catalyst | trans-dichlorobis(triphenylphosphine)palladium | 0.73 mmol, 0.51 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | [4-(2-Azepan-1-yl-ethoxy)-phenyl]-[2-(2,5-difluoro-phenyl)-6-methoxy-naphthalen-1-yl]-methanone | 1.74 g, 93% | N1(CCCCCC1)CCOC1=CC=C(C=C1)C(=O)C1=C(C=CC2=CC(=CC=C12)OC)C1=C(C=CC(=C1)F)F | C32H31F2NO3
